US05081152
(1) 6-Isopropyl-3-[4-(benzenesulfonylamino)butyl]-azulene
A solution of 6-Isopropyl-3-[4-(benzenesulfonylamino)butyl]-azulene-1-carboxylic acid methyl ester (1.53 g) in 100% phosphoric acid (13 ml) was stirred at 120° C. for 20 min. The reaction mixture was poured on ice-water, and extracted with ethyl acetate. The ethyl acetate extracts were washed with water and dried over MgSO4. Removal of the solvent and the purification by silica gel columnchromatography (ethyl acetate-n-hexane, 1:3) afforded the title compound (1.23 g 94%) as a violet crystal 75°~76° C.

reactant | 6-Isopropyl-3-[4-(benzenesulfonylamino)butyl]-azulene-1-carboxylic acid methyl ester | 1.53 g | COC(=O)C1=CC(=C2C=CC(=CC=C12)C(C)C)CCCCNS(=O)(=O)C1=CC=CC=C1 | C25H29NO4S
solvent | phosphoric acid | 13 ml | P(O)(O)(O)=O | H3O4P
product | 6-Isopropyl-3-[4-(benzenesulfonylamino)butyl]-azulene | 1.23 g, 94% | C(C)(C)C=1C=CC2=C(C=CC2=CC1)CCCCNS(=O)(=O)C1=CC=CC=C1 | C23H27NO2S
